US08222248B2
A solution of {4-[6-(3,4-dimethyl-phenylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethyl-phenoxy}-acetic acid (53.2 mg), 1-methylpiperazine (12 mg), BOP (62 mg) and DIEA (0.031 mL) in DMF (0.5 mL) was stirred at room temperature for 16 h. Then 1N NaOH aqueous solution was added. The aqueous layer was extracted with EtOAc, and the organic extracts were dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography (SiO2, EtOAc:Hexane=20:80 to 80:10) and prep-HPLC to give 2-{2,6-dimethyl-4-[2-(4-methyl-piperazin-1-yl)-2-oxo-ethoxy]-phenyl}-3H-benzoimidazole-5-carboxylic acid (3,4-dimethyl-phenyl)-amide: MS (m/z) 526 (M+1).

reactant | {4-[6-(3,4-dimethyl-phenylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethyl-phenoxy}-acetic acid | 53.2 mg | CC=1C=C(C=CC1C)NC(=O)C=1C=CC2=C(NC(=N2)C2=C(C=C(OCC(=O)O)C=C2C)C)C1 | C26H25N3O4
reactant | 1-methylpiperazine | 12 mg | CN1CCNCC1 | C5H12N2
reactant | BOP | 62 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 0.031 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-{2,6-dimethyl-4-[2-(4-methyl-piperazin-1-yl)-2-oxo-ethoxy]-phenyl}-3H-benzoimidazole-5-carboxylic acid (3,4-dimethyl-phenyl)-amide | CC=1C=C(C=CC1C)NC(=O)C1=CC2=C(N=C(N2)C2=C(C=C(C=C2C)OCC(=O)N2CCN(CC2)C)C)C=C1 | C31H35N5O3
